US07244730B2
(Step 3) N1,4-Dimethyl-5-bromo-2-ethoxybenzamide
After dissolving 5-bromo-2-ethoxy-4-methylbenzoic acid in tetrahydrofuran (80 ml), triethylamine (3.5 ml) and ethyl chloroformate (2.4 ml) were added while cooling on ice, the mixture was stirred for 1 hour, and then a 40% methylamine aqueous solution (3.5 ml) was added. The reaction mixture was stirred for 1 hour, ethyl acetate was added and the mixture was washed with brine, after which the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The crystals of the residue were washed with hexane and filtered to yield the title compound (5.08 g) as white crystals.

reactant | 5-bromo-2-ethoxy-4-methylbenzoic acid | BrC=1C(=CC(=C(C(=O)O)C1)OCC)C | C10H11BrO3
reactant | methylamine | 3.5 ml | CN | CH5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl chloroformate | 2.4 ml | ClC(=O)OCC | C3H5ClO2
product | N1,4-Dimethyl-5-bromo-2-ethoxybenzamide | 5.08 g | CNC(C1=C(C=C(C(=C1)Br)C)OCC)=O | C11H14BrNO2
